US08207177B2
Step b: 2-[(1R,2R)-2-methoxy-2,3-dihydro-1H-inden-1-yl]-1H-isoindole-1,3(2H)-dione
To a solution of 2-[(1R,2R)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]-1H-isoindole-1,3(2H)-dione (0.860 g, 0.00308 mol) in THF (30 mL) at 0° C. under an atmosphere of nitrogen was added a 1.0 M solution of lithium hexamethyldisilazide in THF (3.39 mL, 0.00339 mol). The reaction mixture was stirred for 20 minutes, followed by the addition of methyl iodide (0.575 mL, 0.00924 mol). The cold bath was removed, and the reaction mixture was allowed to stir and warm to rt over 18 h. The reaction was monitored by 1H NMR. The reaction mixture was then re-cooled to 0° C. To the reaction mixture was added 1.0 M solution of lithium hexamethyldisilazide in THF (3.39 mL, 0.00339 mol). The reaction mixture was stirred for 15 minutes, followed by addition of methyl iodide (0.575 mL, 0.00924 mol). The cold bath was removed, and the reaction mixture was allowed to stir at rt for 22 h. 1H NMR indicated 80:20 product/starting material. The reaction was quenched with aqueous 1N HCl solution and then concentrated in vacuo. The residue was partitioned between EtOAc and water. The organic phase was washed with saturated NaHCO3 and brine, dried over Na2SO4, filtered, and concentrated. The oil was purified by silica gel chromatography, eluting with a gradient of hexanes to 10% EtOAc in hexanes) to obtain product (4.18 g, 46%). LC/MS: Rt=1.90 min, ES+ 294 (AA standard).

reactant | 2-[(1R,2R)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]-1H-isoindole-1,3(2H)-dione | 0.00308 mol, 0.860 g | O[C@H]1[C@@H](C2=CC=CC=C2C1)N1C(C2=CC=CC=C2C1=O)=O | C17H13NO3
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | methyl iodide | 0.00924 mol, 0.575 mL | CI | CH3I
reactant | methyl iodide | 0.00924 mol, 0.575 mL | CI | CH3I
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 0.00339 mol, 3.39 mL | C1CCOC1 | C4H8O
solvent | THF | 0.00339 mol, 3.39 mL | C1CCOC1 | C4H8O
product | 2-[(1R,2R)-2-methoxy-2,3-dihydro-1H-inden-1-yl]-1H-isoindole-1,3(2H)-dione | 4.18 g, 46% | CO[C@H]1[C@@H](C2=CC=CC=C2C1)N1C(C2=CC=CC=C2C1=O)=O | C18H15NO3
